US09351974B2
Step a: Methyl N-(3-methylbutyl)alaninate
A suspension of DL-alanine methyl ester hydrochloride (41.8 g, 300 mmol) in dry dichloromethane (650 mL) was treated with potassium acetate (30.0 g, 306 mmol) and the reaction mixture stirred for ten minutes at rt. Reaction flask was then cooled to 10° C. and treated with 3-methylbutanal (25.8 g, 300 mmol). This was followed by the addition of sodium triacetoxyborohydride (82.5 g, 390 mmol) in portions over a period of ten minutes. Reaction mixture was stirred at room temperature for 16 h. Then saturated aqueous sodium bicarbonate solution was added to the reaction and the resulting mixture was stirred for another 30 minutes. The reaction mixture was then further basified with aqueous sodium carbonate to pH=˜10. Dichloromethane layer was separated and the aqueous layer extracted with dichloromethane (3×100 mL). Organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, and evaporated to give titled product as a colorless oil (yield: 72%). 1HNMR (300 MHz, CDCl3): δ 0.92-0.98 (m, 6H), 1.28-1.41 (m, 5H), 2.48-2.68 (m, 3H), 3.30-3.40 (m, 1H), 3.74 (s, 3H).

reactant | DL-alanine methyl ester hydrochloride | 300 mmol, 41.8 g | Cl.COC(C(N)C)=O
reactant | potassium acetate | 306 mmol, 30.0 g | C(C)(=O)[O-].[K+]
reactant | 3-methylbutanal | 300 mmol, 25.8 g | CC(CC=O)C | C5H10O
reactant | sodium triacetoxyborohydride | 390 mmol, 82.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 650 mL | ClCCl | CH2Cl2
product | Methyl N-(3-methylbutyl)alaninate | yield: 72% | CC(CCN[C@@H](C)C(=O)OC)C | C9H19NO2
